US09359362B2
(rac)-7-(4-Cyanophenyl)-5-methyl-2-thiophen-2-yl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon protective gas, (rac)-7-(4-cyanophenyl)-5-methyl-2-thiophen-2-yl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (70 mg, 230 μmol) was stirred in abs. dichloromethane (60 ml) with molecular sieve (0.5 g, 4 Å) for 1 h. 3-(Trifluoromethyl)phenylboronic acid (131 mg, 690 μmol, 3 eq.), anhydrous copper(II) acetate (125 mg, 690 μmol, 3 eq.), abs. pyridine (1668 μl) and triethylamine (70 mg, 690 μmol, 3 eq.) were then added, and the mixture was stirred at RT for 12 h. More molecular sieve (0.5 g, 4 Å), 3-(trifluoromethyl)phenylboronic acid (44 mg, 230 μmol, 1 eq.), anhydrous copper(II) acetate (42 mg, 230 μmol, 1 eq.) and abs. pyridine (500 μl) were then added, and the mixture was stirred at RT for a further 3 d. The reaction mixture was then filtered through kieselguhr, the filter residue was washed with dichloromethane and pyridine and the filtrate was concentrated to dryness. The residue was purified by preparative HPLC (Gromsil C18 column, 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The product was obtained as a colorless solid (40.1 mg, 36% of theory).

reactant | (rac)-7-(4-cyanophenyl)-5-methyl-2-thiophen-2-yl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 230 μmol, 70 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)C=2SC=CC2)C)C#N | C18H12N6S
reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
reactant | 3-(Trifluoromethyl)phenylboronic acid | 690 μmol, 131 mg, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 690 μmol, 70 mg, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenylboronic acid | 230 μmol, 44 mg, 1 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
catalyst | copper(II) acetate | 690 μmol, 125 mg, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 230 μmol, 42 mg, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | pyridine | 500 μl | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1668 μl | N1=CC=CC=C1 | C5H5N
product | (rac)-7-(4-Cyanophenyl)-5-methyl-2-thiophen-2-yl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)C=2SC=CC2)C2=CC(=CC=C2)C(F)(F)F)C)C#N | C25H15F3N6S
